US07572795B2
2. 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetic acid
LiOH (1N, 9 mL, 5 mmol) was added into a mixture of methyl 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetate (1.53 g, 3.59 mmol) in THF (15 mL) and methanol (5 mL) at 0° C. The reaction was stirred at 0° C. for 3.5 h, than 0.5 h at rt. The reaction was monitored by LC-MS until the hydrolysis was completed. The mixture was cooled to 0° C. and acidified by 1N HCl to pH=2. The mixture was concentrated and extracted by ethyl acetate (50 mL×3). The extraction was dried over Na2SO4 and concentrated to dryness to give the acid (1.5 g, 67.6% yield) as a light yellow oil.

reactant | LiOH | 5 mmol, 1N, 9 mL | [Li+].[OH-]
reactant | methyl 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetate | 3.59 mmol, 1.53 g | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)OC | C23H23O6P
reactant | HCl | 1N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | 2-(4-(bis(benzyloxy)phosphoryloxy)phenyl)acetic acid | 1.5 g, 67.6% yield | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C22H21O6P
